US06991775B2
2,3-Diamino-propionic acid trihydrochloride
A solution of 2,3-bis-tert-butoxycarbonylamino propionic acid benzyl ester (1.8 g), 4N aqueous HCl (40 ml), and acetonitrile (50 ml) was stirred for 18 hours at room temperature. The solvent was removed under vacuum, and the mixture was diluted with ethyl acetate (100 ml) and water (50 ml) and stirred for 15 minutes. The layers were separated and the aqueous layer was evaporated to dryness (1.23 g of a foam/syrup). 1H NMR (300 MHz): 3.2-3.5 (m, 2H), 4.2-4.35 (m, 1H), 5.13-5.25 (q, 2H, J=11.8, 3.1 Hz).

reactant | 2,3-bis-tert-butoxycarbonylamino propionic acid benzyl ester | 1.8 g | C(C1=CC=CC=C1)OC(C(CNC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C20H30N2O6
reactant | HCl | 4N, 40 ml | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2,3-Diamino-propionic acid trihydrochloride | Cl.Cl.Cl.NC(C(=O)O)CN | InChI=1S/C3H8N2O2.3ClH/c4-1-2(5)3(6)7;;;/h2H,1,4-5H2,(H,6,7);3*1H
